US04983600
N-[[[1-Azabicyclo[2.2.2]octane-3-yl] amino]carbonyl]-2-pyridinecarboxamide
The above compound was prepared, following the procedure of Example 14b, from 3-aminoquinuclidine dihydrochloride(1.0 g, 5 mmol), 2-pyridoylurea (0.82 g, 5 mmol) and di-isopropylethylamine (1.3 g, 10 mmol) in pyridine (20 ml) by refluxing for 4 days. The pyridine was evaporated and the residue partitioned between ether and 10% aqueous w/v citric acid. The mixture was filtered, the aqueous phase washed with ether, then basified with potassium carbonate to precipitate the title compound (0.60 g) which was converted to the 1:1 fumarate, mp 202°-203° C.

reactant | 3-aminoquinuclidine dihydrochloride | 5 mmol, 1.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | 2-pyridoylurea | 5 mmol, 0.82 g | N1=C(C=CC=C1)C(=O)NC(=O)N | C7H7N3O2
reactant | di-isopropylethylamine | 10 mmol, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[[[1-Azabicyclo[2.2.2]octane-3-yl] amino]carbonyl]-2-pyridinecarboxamide | N12CC(C(CC1)CC2)NC(=O)NC(=O)C2=NC=CC=C2 | C14H18N4O2
